US06235763B1
1.28 g (5 mmol) of 2-bromo-6-nitroindan-1-one are dissolved in 30 ml of acetone and, while stirring, 530 mg of thiourea in 10 ml of acetone are added. The solution is initially clear but, after a few minutes, the hydrobromide of 2-amino-5-nitro-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol crystallizes out. It is stirred at room temperature for 1 h, filtered off with suction and washed with a little acetone. The air-dried hydrobromide is dissolved in about 10 ml of methanol and, after addition of 0.7 ml of triethylamine, stirred for 15 min. Then 50 ml of water are added, and the mixture is stirred at room temperature for 1 h. The crystals which have formed are filtered off with suction and washed with a little cold water. 2-Amino-5-nitro-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol is obtained with a melting point above 250° C.

reactant | 2-bromo-6-nitroindan-1-one | 5 mmol, 1.28 g | BrC1C(C2=CC(=CC=C2C1)[N+](=O)[O-])=O | C9H6BrNO3
reactant | thiourea | 530 mg | NC(=S)N | CH4N2S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Amino-5-nitro-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol | NC=1SC2C(N1)(C=1C=C(C=CC1C2)[N+](=O)[O-])O | C10H9N3O3S
